US05882628
b. N,N'-Bis(hydroxyacetyl)-N-(2,3-dihydroxypropyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(acetoxyacetyl)-N-[(2,2-dimethyl-1,3-dioxolane-4-yl)-methyl]-3,5-diamino-2,4,6-triiodobenzylacetate (36 mg, 0.042 mmol) was dissolved in a mixture of methanol (3 ml) and water (4 ml) and the pH was adjusted to 12 using a 1M aqueous solution of NaOH. After stirring for 2 h, pH was adjusted to 1 using 1M aqueous HCl and stirring was continued for 16 h. The solution was neutralized with an aqueous NaH2PO4 buffer, the solvents were removed by evaporation and the residue was purified by preparative HPLC to give 24 mg (81%) of the pure product.

reactant | N,N'-Bis(acetoxyacetyl)-N-[(2,2-dimethyl-1,3-dioxolane-4-yl)-methyl]-3,5-diamino-2,4,6-triiodobenzylacetate | 0.042 mmol, 36 mg | C(C)(=O)OCC(=O)N(C=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(COC(C)=O)=O)I)I)CC1OC(OC1)(C)C
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | methanol | 3 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | N,N'-Bis(hydroxyacetyl)-N-(2,3-dihydroxypropyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | 24 mg, 81% | OCC(=O)N(C=1C(=C(CO)C(=C(C1I)NC(CO)=O)I)I)CC(CO)O | C14H17I3N2O7
